US08383647B2
4-(tetrahydrofuran-2-ylmethoxy)benzoic acid
To a solution of tetrahydrofurfuryl alcohol (25 g), methyl 4-hydroxybenzoate (38 g), and triphenylphosphine (72 g) in tetrahydrofuran (300 mL) was slowly added dropwise a solution of diethyl azodicarboxylate in toluene (136 mL, 40% toluene solution) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and triphenylphosphine oxide was precipitated from ethyl acetate-hexane. Triphenylphosphine oxide was removed by filtration with a glass filter, and the mother liquor was concentrated. The residue was purified by silica gel column chromatography [developing solvent; hexane:ethyl acetate=100:0 (volume ratio)→hexane:ethyl acetate=70:10 (volume ratio)] to give a colorless oil. The obtained colorless oil was dissolved in tetrahydrofuran (200 mL) and methanol (100 mL), 8N aqueous sodium hydroxide solution (100 mL) was added, and the mixture was stirred at 80° C. for 2 hr with heating. The reaction solution was concentrated, cooled to 0° C., neutralized with 6N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (17 g, yield 31%) as colorless crystals.

reactant | tetrahydrofurfuryl alcohol | 25 g | C(C1CCCO1)O | C5H10O2
reactant | methyl 4-hydroxybenzoate | 38 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | sodium hydroxide | 8N, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | toluene | 136 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | 4-(tetrahydrofuran-2-ylmethoxy)benzoic acid | 17 g, yield 31% | O1C(CCC1)COC1=CC=C(C(=O)O)C=C1 | C12H14O4
